US06664259B2
To a solution of 2,2,3,3-tetramethyl-cyclopropanecarboxylic acid (0.142 mL, 1.0 mmol) in DMF (0.5 mL) was added DPPA (0.25 mL, 1.2 mmol) and TEA (0.25 mL, 1.8 mmol) and the reaction heated at 80° C. After 18 hrs, 3-Amino-6-chloro-2-hydroxy-benzenesulfonamide (1.0 mmol) was added and the reaction heated at 80° C. After 18 hrs, the reaction mixture was quenched with water and extracted with ethyl acetate. The organic layers were dried over anhydrous magnesium sulfate, and concentraed under reduced pressure. The crude residue was purified via HPLC to give 96 mg of 6-Chloro-2-hydroxy-3-[3-(2,2,3,3-tetrmethyl-cyclopropyl)-ureido]-benzenesulfonamide. LC-MS (m/z) 347 (M+).

reactant | 2,2,3,3-tetramethyl-cyclopropanecarboxylic acid | 1.0 mmol, 0.142 mL | CC1(C(C1(C)C)C(=O)O)C | C8H14O2
reactant | DPPA | 1.2 mmol, 0.25 mL | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
reactant | 3-Amino-6-chloro-2-hydroxy-benzenesulfonamide | 1.0 mmol | NC=1C(=C(C(=CC1)Cl)S(=O)(=O)N)O | C6H7ClN2O3S
reactant | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 6-Chloro-2-hydroxy-3-[3-(2,2,3,3-tetrmethyl-cyclopropyl)-ureido]-benzenesulfonamide | 96 mg | ClC1=CC=C(C(=C1S(=O)(=O)N)O)NC(=O)NC1C(C1(C)C)(C)C | C14H20ClN3O4S
